US08058447B2
2-Methyl-8-[(1E)-prop-1-en-1-yl]-4H-chromen-4-one
12.52 g (313.2 mmol) of 60% sodium hydride (suspension in mineral oil) are introduced into 300 ml of absolute THF at 10° C. under argon. 18.4 g (104.4 mmol) of 1-{2-hydroxy-3-[(1E)-prop-1-en-1-yl]phenyl}ethanone are slowly added dropwise to the suspension. After 15 min, 9 g (114.9 mmol) of acetyl chloride are added. The reaction mixture is stirred at room temperature overnight. It is hydrolyzed with 300 ml of water and extracted several times with ethyl acetate. Washing of the organic phase with saturated sodium chloride solution is followed by drying over sodium sulfate. The solvent is then removed in vacuo. The residue is taken up in 200 ml of methanol and heated with 50 ml of 20% strength hydrochloric acid at 80° C. for 30 min. The solvent is then removed in vacuo, and the residue is mixed with 400 ml of water. It is extracted several times with dichloromethane. The organic phase is dried over magnesium sulfate and then the solvent is removed in vacuo, and the residue is purified by column chromatography (mobile phase: dichloromethane/methanol 98:2). 10.5 g (50.2% of theory) of the title compound are obtained as a yellow oil.

reactant | sodium hydride | 313.2 mmol, 12.52 g | [H-].[Na+]
reactant | THF | 300 ml | C1CCOC1 | C4H8O
reactant | 1-{2-hydroxy-3-[(1E)-prop-1-en-1-yl]phenyl}ethanone | 104.4 mmol, 18.4 g | OC1=C(C=CC=C1\C=C\C)C(C)=O | C11H12O2
reactant | acetyl chloride | 114.9 mmol, 9 g | C(C)(=O)Cl | C2H3ClO
solvent | water | 300 ml | O | H2O
product | 2-Methyl-8-[(1E)-prop-1-en-1-yl]-4H-chromen-4-one | CC=1OC2=C(C=CC=C2C(C1)=O)\C=C\C | C13H12O2
